US09056877B2
To a stirred solution of ethyl 4-hydroxy-2-methylthiophene-3-carboxylate (F-3) (20.0 g, 0.11 mol, 1.0 eq) in DMF (150 mL) at −20° C. under argon, phosphoryl chloride (49.4 g, 0.32 mol, 3.0 eq) is added dropwise while keeping the reaction temperature below 10° C. The resulting mixture is stirred at RT for 30 min and then at 80° C. for 1 h. The reaction mixture is cooled to RT and poured into ice-water (800 mL). The resulting mixture is neutralized with NaOAc to adjust the pH to 7-8. The precipitate is collected by filtration, rinsed with H2O (150 mL), and dried in vacuo. The product is purified by flash column chromatography on silica gel (5% ethyl acetate-petroether) to afford the product, ethyl 4-chloro-5-formyl-2-methylthiophene-3-carboxylate (F-4).

reactant | ethyl 4-hydroxy-2-methylthiophene-3-carboxylate | 0.11 mol, 20.0 g, 1.0 eq | OC=1C(=C(SC1)C)C(=O)OCC | C8H10O3S
reactant | phosphoryl chloride | 0.32 mol, 49.4 g, 3.0 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOAc | CC(=O)[O-].[Na+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | ethyl 4-chloro-5-formyl-2-methylthiophene-3-carboxylate | ClC=1C(=C(SC1C=O)C)C(=O)OCC | C9H9ClO3S
